US07964594B1
Intermediate Ea3 (R1,2=cyclopropyl, R3=Me): To a solution of {1-[(S)-1-amino-1-(2-fluoro-5-nitro-phenyl)-ethyl]-cyclopropyl}-methanol (0.50 g) in dry THF (20 ml) was added bromocyanogen (0.24 g) and sodium acetate (0.19 g) and the mixture was stirred at 80° C. overnight. The mixture was cooled to 22° C., diluted with HCl in dioxane (4M, 2.4 ml) and stirring was continued for 1 h. The mixture was partitioned between aqueous saturated Na2CO3 and ethyl acetate, the organic layer was dried, evaporated and the residue purified by chromatography over silca-NH2 using ethyl acetate to give (S)-8-(2-fluoro-5-nitro-phenyl)-8-methyl-5-oxa-7-aza-spiro[2.5]oct-6-en-6-ylamine (0.30 g) as a pale yellow solid. MS (ESI): m/z=280.1 [M+H]+.

reactant | {1-[(S)-1-amino-1-(2-fluoro-5-nitro-phenyl)-ethyl]-cyclopropyl}-methanol | 0.50 g | N[C@](C)(C1=C(C=CC(=C1)[N+](=O)[O-])F)C1(CC1)CO | C12H15FN2O3
reactant | bromocyanogen | 0.24 g | C(#N)Br | CBrN
reactant | sodium acetate | 0.19 g | C(C)(=O)[O-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | HCl | Cl | ClH
solvent | dioxane | 4M, 2.4 ml | O1CCOCC1 | C4H8O2
product | (S)-8-(2-fluoro-5-nitro-phenyl)-8-methyl-5-oxa-7-aza-spiro[2.5]oct-6-en-6-ylamine | 0.30 g | FC1=C(C=C(C=C1)[N+](=O)[O-])[C@]1(N=C(OCC12CC2)N)C | C13H14FN3O3
